US09062048B2
Step B: 2,2,2-trifluoro-N-(1-(4-oxocyclohexyl)propyl)acetamide
A solution of N-(1-{1,4-dioxaspiro[4.5]decan-8-yl}propyl)-2,2,2-trifluoroacetamide (89 mg, 0.30 mmol, 1.00 equiv) in CH3CN (5 mL) and HCl (2M, 1 mL) was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was diluted with 10 mL of aq. sodium bicarbonate (1M). The resulting solution was extracted with 2×20 mL of dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum to give the title compound as a yellow oil.

reactant | N-(1-{1,4-dioxaspiro[4.5]decan-8-yl}propyl)-2,2,2-trifluoroacetamide | 0.30 mmol, 89 mg, 1.00 equiv | O1CCOC12CCC(CC2)C(CC)NC(C(F)(F)F)=O | C13H20F3NO3
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | HCl | 2M, 1 mL | Cl | ClH
product | 2,2,2-trifluoro-N-(1-(4-oxocyclohexyl)propyl)acetamide | FC(C(=O)NC(CC)C1CCC(CC1)=O)(F)F | C11H16F3NO2
